US07173058B2
3-(4-Acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy -phenyl)-propionamide was prepared by the procedure of Example 6 from 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.5 g, 1.1 mmol), CDI (0.19 g, 1.2 mmol) and NH4OH (0.1 ml, 1.2 mmol) in THF (30 ml) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionamide as white solid (0.40 g, 80%): mp 178–180° C.; 1HNMR (CDCl3): δ1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 2.26 (s, 3H, CH3CO), 3.03 (dd, J=5, 15 Hz, 1H, CH2), 3.70 (dd, J=10, 15 Hz, 1H, CH2), 4.09 (q, J=7.0 Hz, 2H, OCH2CH3), 5.38 (broad, 1H, NH2), 5.61 (broad, 1H, NH2), 5.76–5.83 (m, 1H, CHN), 6.83 (t, JH-F=7.5 Hz, 1H, CF2H), 7.06–7.14 (m, 3H, Ar), 7.46(d, J=7.5 Hz, 1H, Ar), 7.65 (t, J=7.5 Hz, 1H, Ar), 7.74 (d, J=7.5 Hz, 1H, Ar), 9.45 (s, 1H, NHCO). 13CNMR (DMSO-d6): δ 14.4, 24.2, 36.7, 50.0, 64.2, 93.9, 112.5, 113.2, 116.7, 116.7, 118.0, 119.4, 121.2, 125.9, 131.4, 135.8, 136.4, 137.6, 139.0, 149.7, 167.2, 168.2,169.2, 171.0; Anal Calcd for C22H21F2N3O6: C, 57.27; H, 4.59; N, 9.11. Found: C, 57.04; H, 4.41; N, 8.93.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.1 mmol, 0.5 g | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H20F2N2O7
reactant | CDI | 1.2 mmol, 0.19 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 1.2 mmol, 0.1 ml | [NH4+].[OH-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionamide | 0.40 g, 80% | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N)C1=CC(=C(C=C1)OC(F)F)OCC)=O | C22H21F2N3O6
